US04282242
2-(2-Chlorophenoxy)-3-dimethylaminoacrylaldehyde
Dimethylformamide (109.5 g., 1.5 moles) was cooled in an ice-water bath. Phosphorus oxychloride (229.5 g., 1.5 moles) was added dropwise over 1.5 hours and the reaction mixture then allowed to stir for 45 minutes at room temperature. Chloroform (300 ml.) was added and then 4-chlorophenoxyacetaldehyde dimethylacetal (122 g., 0.5 moles) and the mixture refluxed for approximately 16 hours. The reaction was cooled to room temperature and added slowly to approximately 300 ml. of chloroform mixed with ice and water while maintaining the pH approximately 10 with sodium hydroxide. Aqueous 40% dimethylamine (400 ml.) was added, the organic layer separated and the aqueous extracted with additional chloroform. The chloroform extracts were combined, dried over anhydrous sodium sulfate, concentrated to a semisolid, and crystalline product recovered by trituration with isopropyl ether (95 g., Rf 0.25 on thin layer chromatography on silica gel with ethyl acetate as eluant).

reactant | Dimethylformamide | 1.5 moles, 109.5 g | CN(C=O)C | C3H7NO
reactant | Phosphorus oxychloride | 1.5 moles, 229.5 g | P(=O)(Cl)(Cl)Cl | Cl3OP
reactant | 4-chlorophenoxyacetaldehyde dimethylacetal | 0.5 moles, 122 g | COC(COC1=CC=C(C=C1)Cl)OC | C10H13ClO3
reactant | sodium hydroxide | [OH-].[Na+]
reactant | dimethylamine | 400 ml | CNC | C2H7N
solvent | water | O | H2O
solvent | chloroform | C(Cl)(Cl)Cl | CHCl3
solvent | Chloroform | 300 ml | C(Cl)(Cl)Cl | CHCl3
product | 2-(2-Chlorophenoxy)-3-dimethylaminoacrylaldehyde | ClC1=C(OC(C=O)=CN(C)C)C=CC=C1 | C11H12ClNO2
